US07511067B2
4-(2-{3-[3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-1-hydroxy-ethyl)-2-hydroxymethyl-phenol
The compound is obtained according to general working method A from 121 mg (0.35 mmol) of methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 98 mg (0.35 mmol) of 3-[3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamine. Yield: 9 mg (6%); mass spectroscopy [M+H]+=447.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 0.35 mmol, 121 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 3-[3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamine | 0.35 mmol, 98 mg | FC=1C=C(C=C(C1)F)C1=NN(C(=N1)C)CCC(C)(C)N | C14H18F2N4
product | 4-(2-{3-[3-(3,5-difluoro-phenyl)-5-methyl-[1,2,4]triazol-1-yl]-1,1-dimethyl-propylamino}-1-hydroxy-ethyl)-2-hydroxymethyl-phenol | FC=1C=C(C=C(C1)F)C1=NN(C(=N1)C)CCC(C)(C)NCC(O)C1=CC(=C(C=C1)O)CO | C23H28F2N4O3
